US05347041
1-Iododecyne
To a 500 ml 3-neck round bottom flask is transferred an ethylmagnesium bromide solution, 100 ml of 3.0M in dried ether, 0.30 mole, under an argon atmosphere. The contents are cooled to about 0° to 3° C. in a solution of 1-decyne, 25 grams, 0.1808 mole, and 50 ml of dried ether are added dropwise into the reaction mixture over a period of 1.5 hours. Thereafter the mixture is warmed to 35°-38° C. and maintained at that temperature for an additional hour. The mixture is then cooled to about 15° C. and powdered iodine, 80 g., 0.315 mole, is slowly added through a solid addition funnel over a period of about 1.5 hours. The reaction is maintained at 30° C. for approximately 2.5 additional hours. In the meantime, an additional 150 ml of dried ether is added to limit the viscosity increase during the reaction. In the work-up process, 200-300 ml of ether are added and the contents hydrolyzed by slowly pouring them into two liters of cold, dilute acetic acid having a pH of about 1-2. The organic phase is extracted with ether and washed several times with 10 percent Na2S2O3 solution to remove the unreacted iodine. Washing continues until the organic phase exhibits a clear color. Following this, the phase is washed several times with water and dried over MgSO4. The solvent is removed by means of a rotary evaporator, and the oily crude product is purified by column chromatography, using silica gel absorbent and hexane as an eluent. The yield is about 90 percent based on 1-decyne used, of a pale yellow liquid, 43.0 grams, 0.1629 mole.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 1-decyne | C#CCCCCCCCC | C10H18
reactant | iodine | II | I2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
solvent | ether | 200-300 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1-Iododecyne | yield is about 90 percent | IC#CCCCCCCCC | C10H17I
